US04792550
Synthesis of (1R,5R)-10-(tetrahydropyran-2-yloxy)methyl-2-pinene
To a solution of pinene (15.5 g) prepared in reference example 1 in methylene chloride (300 ml), 2,3-dihydropyran (9.4 ml) was dropped. After addition of catalytic amount of p-toluenesulphonic acid, the solution was stirred at room temperature. After reaction, triethylamine was added to the solution. The solution was concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (cyclohexane: ethyl acetate=99:1) to give the title compound (20.8 g) having the following physical data:

reactant | pinene | 15.5 g | C12=C(CCC(C1(C)C)C2)C | C10H16
reactant | 2,3-dihydropyran | 9.4 ml | O1CCCC=C1 | C5H8O
reactant | p-toluenesulphonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
product | (1R,5R)-10-(tetrahydropyran-2-yloxy)methyl-2-pinene | 20.8 g | O1C(CCCC1)OCCC=1[C@H]2C([C@H](CC1)C2)(C)C | C16H26O2
